US04226875
Ethyl-1-hydroxyindan-1-carboximidate
A 100 ml ethereal solution of 1-indanone (20.0 g, 0.152 mol) (Aldrich), trimethylsilyl cyanide (21.9 g, 0.22 mol) (Silar), and zine iodide (0.200 g, 0.001 mol) was kept at 20° C. for four days then diluted with 250 ml ether and washed with 5% sodium bicarbonate (2×100 ml). The organic phase was dried over magnesium sulfate, filtered, and evaporated in vacuo to a residue of the desired trimethylsilyl cyanohydrin and was used directly in the next step. This oily residue was dissolved in 100 ml ethanol and perfused with anhydrous hydrogen chloride while cooling at 0° C. After a 30 minute perfusion period the flask was stoppered and allowed to come to room temperature overnight. The mixture was poured into 200 ml of ice water and extracted with ethyl acetate (2×100 ml). The aqueous phase was layered with ethyl acetate, cooled to 0° and basified with 6 N sodium hydroxide. The separated basic layer was extracted with (2×100 ml) ethyl acetate. The three ethyl acetate portions were pooled, dried over magnesium sulfate, filtered, and evaporated in vacuo to an oily solid residue, 3.59 g (12%). Crystallization from hexane gave a solid which slowly melted at room temperature.

reactant | 1-indanone | 0.152 mol, 20.0 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | trimethylsilyl cyanide | 0.22 mol, 21.9 g | C[Si](C)(C)C#N | C4H9NSi
reactant | iodide | 0.001 mol, 0.200 g | [I-]
reactant | ether | 250 ml | CCOCC | C4H10O
product | Ethyl-1-hydroxyindan-1-carboximidate | C(C)OC(=N)C1(CCC2=CC=CC=C12)O | C12H15NO2
